US06589970B2
A mixture of (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-carbamic acid tert-butyl ester (0.89 g, 2.5 mmol), prepared in the previous step, potassium carbonate (1.7 g, 12.5 mmol), and methyl bromoacetate (1.26 mL, 2.75 mmol) in 10 mL of DMF was stirred under nitrogen for 18 h (overnight). The reaction was diluted with ethyl acetate and extracted three times with water. The organic layer was dried (MgSO4) and the solvent removed under reduced pressure to give [1-bromo-6-(tert-butoxycarbonylamino-methyl)-naphthalen-2-yloxy]-acetic acid methyl ester (1.016 g, 96%) as an off white solid, mp 96-100° C.

reactant | (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-carbamic acid tert-butyl ester | 2.5 mmol, 0.89 g | C(C)(C)(C)OC(NCC1=CC2=CC=C(C(=C2C=C1)Br)O)=O | C16H18BrNO3
reactant | potassium carbonate | 12.5 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 2.75 mmol, 1.26 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1-bromo-6-(tert-butoxycarbonylamino-methyl)-naphthalen-2-yloxy]-acetic acid methyl ester | 1.016 g, 96% | COC(COC1=C(C2=CC=C(C=C2C=C1)CNC(=O)OC(C)(C)C)Br)=O | C19H22BrNO5
